US07101651B2
Next, 91 g (0.31 mol) of the 1,2-di(n-hexyloxy)-4-methylbenzene was dissolved in 270 g of dichloromethane. While cooling in an ice/water bath, 49.7 g (0.31 mol) of bromine was added dropwise at a temperature below 10° C. After the completion of dropwise addition, 200 g of water was added. The organic layer was separated and washed with a saturated sodium hydrogen carbonate aqueous solution. The organic layer was concentrated on a rotary evaporator, yielding 120 g of an oily matter. This was distilled in vacuum (boiling point 180–190° C./0.5 Torr), obtaining 104 g (yield 90%) of 5-bromo-1,2-di(n-hexyloxy)-4-methylbenzene.

reactant | 1,2-di(n-hexyloxy)-4-methylbenzene | 0.31 mol, 91 g | C(CCCCC)OC1=C(C=C(C=C1)C)OCCCCCC | C19H32O2
reactant | bromine | 0.31 mol, 49.7 g | BrBr | Br2
reactant | water | 200 g | O | H2O
solvent | dichloromethane | 270 g | ClCCl | CH2Cl2
product | 5-bromo-1,2-di(n-hexyloxy)-4-methylbenzene | 104 g, yield 90% | BrC=1C(=CC(=C(C1)OCCCCCC)OCCCCCC)C | C19H31BrO2
